US07323475B2
(S)-2-[(6-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid
0.030 g of 6-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid and 0.046 g of HATU were allowed to react with 0.017 g of L-Alanine methyl ester under analogous conditions to Example A-1 a). Treatment of the crude product ester with 0.014 g of NaOH in 0.1 ml of 1:1 methanol-water at room temperature for 2 days, followed by acidification to pH=˜2 with 1M hydrochloric acid, gave a solid product. The product was collected by filtration, washed with water, and dried to give 0.023 g of an off-white solid: MS-(−)-ion, M−1=353.0 amu.

reactant | 6-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | 0.030 g | C(C)(C)OC=1C=C2C(=C(N=C(C2=CC1)Cl)C(=O)O)O | C13H12ClNO4
reactant | HATU | 0.046 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | L-Alanine methyl ester | 0.017 g | COC([C@@H](N)C)=O | C4H9NO2
reactant | NaOH | 0.014 g | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol water | 0.1 ml | CO.O
product | (S)-2-[(6-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-propionic acid | 0.023 g | C(C)(C)OC=1C=C2C(=C(N=C(C2=CC1)Cl)C(=O)N[C@H](C(=O)O)C)O | C16H17ClN2O5
